US03950376
A mixture of 3-mercapto-4-phenoxy-5-sulfamylbenzoic acid (1.7 g), sodium hydrogen carbonate (1 g), sodium dithionite (1 g), 4-vinylpyridine (0.8 ml) and saturated aqueous sodium hydrogen carbonate (17 ml) is stirred at 70° C. for 4 hours. After cooling, pH of the mixture is adjusted to 4.5 by addition of acetic acid. The precipitated material is collected by filtration, washed with water, and recrystallized from aqueous ethanol to yield 4-phenoxy-3-(4-pyridylethylthio)-5-sulfamylbenzoic acid.

reactant | 3-mercapto-4-phenoxy-5-sulfamylbenzoic acid | 1.7 g | SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C13H11NO5S2
reactant | sodium hydrogen carbonate | 1 g | C(O)([O-])=O.[Na+]
reactant | sodium dithionite | 1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-vinylpyridine | 0.8 ml | C(=C)C1=CC=NC=C1 | C7H7N
reactant | sodium hydrogen carbonate | 17 ml | C(O)([O-])=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-phenoxy-3-(4-pyridylethylthio)-5-sulfamylbenzoic acid | O(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)SCCC1=CC=NC=C1 | C20H18N2O5S2
